US07737149B2
A solution of 3-formyl-N-methylbenzamide (2.9 g, 17.77 mmol) and methyl 2-triphenylphosphoranylideneacetate (8.91 g, 26.66 mmol) in dichloromethane (85 mL), was stirred at room temperature for 18 h. The reaction mixture was evaporated to dryness. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in DCM. Pure fractions were evaporated to dryness to afford impure product. Re-purified by silica column chromatography, eluting with a gradient of 50 to 100% EtOAc in hexanes. Pure fractions were evaporated to dryness to afford (E)-methyl 3-[3-(methylcarbamoyl)phenyl]prop-2-enoate (3.77 g, 97%).

reactant | 3-formyl-N-methylbenzamide | 17.77 mmol, 2.9 g | C(=O)C=1C=C(C(=O)NC)C=CC1 | C9H9NO2
reactant | methyl 2-triphenylphosphoranylideneacetate | 26.66 mmol, 8.91 g | C1(=CC=CC=C1)P(=CC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | dichloromethane | 85 mL | ClCCl | CH2Cl2
product | (E)-methyl 3-[3-(methylcarbamoyl)phenyl]prop-2-enoate | 3.77 g, 97% | CNC(=O)C=1C=C(C=CC1)/C=C/C(=O)OC | C12H13NO3
